### PR TITLE
feat(untyped): define CBN and Standard evaluation strategies

### PR DESCRIPTION
**Pull request by m-ow**
This is the first step towards the Standardization Theorem.

Instead of the classic (and painful) Barendregt approach, I defined `Standard` reduction 
relying on `CBN` to find the head redex, which makes the proofs much nicer.

### CODE REVIEW

**Comment by lengyijun** [comment]
Hi, I am doing something similar. 
I have verified eta-postpone theorem yet.

I also have verified  leftmost theorem in debruijn index.

We are working on https://github.com/awesome-lambda-calculus/Fokker_challenge , normalization theorem is of most importance to us.

**Comment by m-ow** [comment]
Hi! Really cool project! 
You mentioned using De Bruijn indices, but I'm writing the Standardization theorem in Locally Nameless. 
Are you planning to open a PR to add the De Bruijn representation? Let's coordinate our efforts to avoid duplicating work.

**Comment by m-ow** [comment]
Just read through your docs and I'm glad to see the project officially uses Locally Nameless. 
I also noticed that you are currently blocked by the Standardization theorem. I can focus my efforts there so your team can use it soon. Let me know what you think and how you'd like to proceed!

**Comment by lengyijun** [comment]
https://github.com/awesome-lambda-calculus/Fokker_challenge/issues/3

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+/-- Evaluates the leftmost term. -/
+| app : LC Z → CBN M N → CBN (app M Z) (app N Z)
+
+variable {M N : Term Var}
+
+/-- The left side of a CBN reduction step is locally closed. -/
+lemma cbn_lc_l (step : M ⭢ₙ N) : LC M := by
+  induction step
+  all_goals grind
+
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean:39]:
```suggestion
  induction step with grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+variable [HasFresh Var] [DecidableEq Var]
+
+/-- The right side of a CBN reduction step is locally closed. -/
+lemma cbn_lc_r (step : M ⭢ₙ N) : LC N := by
+  induction step
+  case base beta_step =>
+    cases beta_step
+    apply beta_lc <;> assumption
+  case app lc_z _ lc_n => exact LC.app lc_n lc_z
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean]: This seems reasonable:

```suggestion
  induction step with grind
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Looks straightforward, just a couple of small golfs:

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+/-- Congruence rule for lambda terms. -/
+| abs (xs : Finset Var) :
+    (∀ x ∉ xs, Standard (m ^ fvar x) (m' ^ fvar x)) → Standard (abs m) (abs m')
+/-- Standard reduction of a head redex. -/
+| rdx : LC m → LC n → m ↠ₙ (abs m') → Standard (m' ^ n) p → Standard (app m n) p
+
+variable {M N : Term Var}
+
+/-- The left side of a standard reduction is locally closed. -/
+lemma stand_lc_l (step : M ⭢ₛ N) : LC M := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: I think for the other reduction strategies we namespace all these lemmas. Especially since you do so for `Standard.lc_refl` below this feels odd.

Comment (m-ow) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StandardReduction.lean]: Thanks for the review!

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean [hunk 4]
```diff
@@ -0,0 +1,48 @@
...
+inductive CBN : Term Var → Term Var → Prop
+/-- Top-level β-reduction. -/
+| base : Beta M N → CBN M N
+/-- Evaluates the leftmost term. -/
+| app : LC Z → CBN M N → CBN (app M Z) (app N Z)
+
+variable {M N : Term Var}
+
+/-- The left side of a CBN reduction step is locally closed. -/
+lemma cbn_lc_l (step : M ⭢ₙ N) : LC M := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean]: Same thing with the namespacing here, right? Seems these should be `CBN.lc_{l,r}`

Comment (m-ow) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/CallByName.lean]: Right, missed that one. Thanks!

**Review by chenson2018 — APPROVED** [review]
Looks good, thanks!

**Comment by lengyijun** [comment]
@chenson2018 Why merge such unfinished code?

**Comment by chenson2018** [comment]
> @chenson2018 Why merge such unfinished code?

We in general encourage making small PRs. This seemed fine to me for an initial pass at adding these definitions.

**Comment by lengyijun** [comment]
@m-ow May I ask what project you are working on that requires this definition?
For [fokker_challenge](https://github.com/awesome-lambda-calculus/Fokker_challenge), this definition of standard theorem looks useless.

In my development of  [fokker_challenge](https://github.com/awesome-lambda-calculus/Fokker_challenge), changes to cslib are saved in [enhancedcslib/ directory](https://github.com/awesome-lambda-calculus/Fokker_challenge/tree/main/FokkerChallenge/EnhancedCslib) for several weeks, until I can make sure this is useful and general enough to contribute to upstream.

**Comment by chenson2018** [comment]
> this definition of standard theorem looks useless.

Instead of phrasing things so negatively, could you please explain the specific issue that you have with the definitions in this PR?

**Comment by lengyijun** [comment]
Personally I prefer https://www.is.c.titech.ac.jp/~kashima/pub/C-145.pdf

Actually I have verified most part of the paper, but I am still testing them in [fokker_challenge](https://github.com/awesome-lambda-calculus/Fokker_challenge), so I will not pr soon.

I don't understand merge such a pr in one day.

**Comment by lengyijun** [comment]
> > this definition of standard theorem looks useless.
> 
> Instead of phrasing things so negatively, could you please explain the specific issue that you have with the definitions in this PR?

I doubt this is helpful to verify "two vars are not enough".
I am currently still experimenting with various definitions.
I don't understand why the decision is being made so quickly.

https://github.com/awesome-lambda-calculus/Fokker_challenge/wiki/Two-vars-are-not-enough

**Comment by lengyijun** [comment]
BTW: "Formalization in Coq of the Standardization Theorem for λ-calculus" is not based on locallynameless

**Comment by chenson2018** [comment]
> BTW: "Formalization in Coq of the Standardization Theorem for λ-calculus" is not based on locallynameless

It seems unlikely to be relevant that this reference is not specifically using locally nameless binding, as most theorems we care about are independent of this?

> So I don't understand merge such a pr in one day.

I've still not understood your specific objection to these definitions. They seemed very straightforward to me, so I merged the PR. There is no rush, but if you follow up with a *specific* alternative proposal and a fleshed out explanation of why it works better, I will certainly consider it.

**Comment by lengyijun** [comment]
In this pr, standardization is parallel style.
In https://www.is.c.titech.ac.jp/~kashima/pub/C-145.pdf, standardization is small step style.

Proof in parallel style might be easier to write.

@m-ow @chenson2018

**Comment by lengyijun** [comment]
Actually I have the whole proof this pr, but it is not tested in [fokker_challenge](https://github.com/awesome-lambda-calculus/Fokker_challenge), so I didn't push a pr:

[3176a427-5996-4dfd-85d5-33b8f32eff1a-aristotle.tar.gz](https://github.com/user-attachments/files/29227183/3176a427-5996-4dfd-85d5-33b8f32eff1a-aristotle.tar.gz)

**Comment by m-ow** [comment]
@lengyijun Thanks for the feedback.
I'd like to clarify a couple of points regarding the definitions in this PR:

> In this pr, standardization is parallel style.

The proof strategy in this PR is not parallel, it's CBN based (following Calisto, adapted to locally nameless).

> I doubt this is helpful to verify "two vars are not enough".

Agreed that the current PR is not sufficient for [fokker_challenge](https://github.com/awesome-lambda-calculus/Fokker_challenge) on its own. The next step is `M ⭢ₛ N ↔ M ↠βᶠ N`, followed by the leftmost reduction theorem. These are the next PRs I have in mind.

**Comment by lengyijun** [comment]
@m-ow Are you going to define properties of `Normal FullBeta` ?

**Comment by m-ow** [comment]
If you already have `Normal` and related properties in locally nameless, I'd encourage you to open a PR for them. Let's avoid overlap

**Comment by lengyijun** [comment]
@m-ow I will not pr those. Thanks for your work. I will focus on following theorems, although I don't have any idea now:

```
theorem betaeta_factor_betaNF {M N : Term} (h : StepsBetaEta M N) (hN : NormalFormBetaEta N) :
    ∃ P, StepsBeta M P ∧ NormalFormBeta P ∧ StepsEta P N := by

lemma sn_eta_step [DecidableEq Var] [HasFresh Var]
  (t_st_t' : t ⭢ηᶠ t') (sn_t : SN FullBeta t) : SN FullBeta t'
```
